// Generated for: spectre
// Generated on: Apr 28 16:09:17 2026
// Design library name: ESE6680_PROJECT3
// Design cell name: comparator_test
// Design view name: schematic
simulator lang=spectre
global 0
include "/lcars/home/e/ese6680/ami06.scs"

// Library name: ESE6680_PROJECT3
// Cell name: Final_StaticComparator
// View name: schematic
subckt Final_StaticComparator Gnd STROBE Vdd Vi1 Vi2 Vo1 Vo2
    I0 (net58 Gnd) isource type=dc dc=30u m=1
    N1 (Vo1 Vi2 net58 Gnd) ami06N w=12.0u l=600n as=1.8e-11 ad=1.8e-11 \
        ps=27.0u pd=27.0u m=1 region=sat
    N0 (Vo2 Vi1 net58 Gnd) ami06N w=12.0u l=600n as=1.8e-11 ad=1.8e-11 \
        ps=27.0u pd=27.0u m=1 region=sat
    P1 (Vo2 Vo1 Vdd Vdd) ami06P w=12.0u l=600n as=1.8e-11 ad=1.8e-11 \
        ps=27.0u pd=27.0u m=1 region=sat
    P0 (Vo1 Vo2 Vdd Vdd) ami06P w=12.0u l=600n as=1.8e-11 ad=1.8e-11 \
        ps=27.0u pd=27.0u m=1 region=sat
    P2 (Vo1 STROBE Vo2 Vdd) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    P3 (Vo2 STROBE Vo1 Vdd) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
ends Final_StaticComparator
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: comparator_test
// View name: schematic
I0 (0 STROBE net3 Vi1 Vi2 Vo1 Vo2) Final_StaticComparator
V2 (Vi2 0) vsource dc=2.5 type=dc
V0 (net3 0) vsource dc=5 type=dc
V1 (Vi1 0) vsource dc=2.5 type=sine ampl=1.5 freq=1M
V3 (STROBE 0) vsource type=pulse val0=0 val1=5 period=200n rise=10p \
        fall=10p width=100n
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=5u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
