// Generated for: spectre
// Generated on: May  1 07:22:56 2026
// Design library name: ESE6680_PROJECT3
// Design cell name: comparator_test
// Design view name: schematic
simulator lang=spectre
global 0
include "/lcars/home/e/ese6680/ami06.scs"

// Library name: ESE6680_PROJECT3
// Cell name: Final_StaticComparator
// View name: schematic
subckt Final_StaticComparator Gnd STROBE Vdd Vi1 Vi2 Vo1 Vo2
    I0 (net58 Gnd) isource type=dc dc=60u m=1
    P7 (net023 STROBE net09 net029) ami06P w=10.05u l=600n as=1.5075e-11 \
        ad=1.5075e-11 ps=23.1u pd=23.1u m=1 region=sat
    P6 (net09 STROBE net023 net029) ami06P w=10.05u l=600n as=1.5075e-11 \
        ad=1.5075e-11 ps=23.1u pd=23.1u m=1 region=sat
    P5 (Vdd net03 Vo2 Vdd) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P4 (Vdd net09 net03 Vdd) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P3 (Vdd net023 net09 Vdd) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P2 (net023 net09 Vdd Vdd) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P1 (Vo1 net018 Vdd Vdd) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P0 (net018 net023 Vdd Vdd) ami06P w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    N5 (Vo1 net018 Gnd Gnd) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N4 (net018 net023 Gnd Gnd) ami06N w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    N1 (Gnd net09 net03 Gnd) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N0 (Gnd net03 Vo2 Gnd) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N2 (net09 Vi1 net58 net026) ami06N w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    N3 (net58 Vi2 net023 net026) ami06N w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
ends Final_StaticComparator
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: comparator_test
// View name: schematic
I0 (0 STROBE net3 Vi1 Vi2 Vo1 Vo2) Final_StaticComparator
V2 (Vi2 0) vsource dc=2.5 type=dc
V0 (net3 0) vsource dc=5 type=dc
V1 (Vi1 0) vsource dc=2.5 type=sine ampl=1.5 freq=1M
V3 (STROBE 0) vsource type=pulse val0=5 val1=0 period=200n rise=200p \
        width=100n
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=5u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
